US07393852B2
D. Preparation of (R)-2-(1-(4-chlorophenylsulfonyl)-3-oxopiperazin-2-yl)-N-(6-vinyl-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide
A solution of 2-(1-(4-chlorophenylsulfonyl)-3-oxopiperazin-2-yl)acetic acid (332 mg, 1 mmol), crude 48999-36 (190 mg, 1.1 mmol), II (135 mg, 1 mmol) and III (191 mg, 1 mmol) in 1 mL of DMF was stirred overnight at room temperature. After quenching with sat. NaHCO3 solution, the reaction mixture was extracted with EtOAc. The combined organic phase was washed brine, dried over Na2SO4, and evaporated in vaco. Flash chromatography (SiO2, EtOAc to EtOAc/MeOH=100:3 to 100:5 to 100:6) gave the title compound as a white solid. E. Preparation of (R)-2-(1-(4-chlorophenylsulfonyl)-3-oxopiperazin-2-yl)-N-(6-formyl-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide. To a solution of the procuct of step D. (280 mg, 0.575 mmol) in 13 mL of a mixture solvent t-butanol/THF/water (10:2:1) was added NMO (135 mg, 1.15 mmol), followed by OsO4 (2.5% w/w in t-butanol, 175 mg, 0.017 mmol). After stirring overnight at room temperature, 4 mL of pH 7.2 phosphate buffer was added, followed by NaIO4 (615 mg, 2.875 mmol). After stirring for 5 h at room temperature, the reaction solution was diluted with EtOAc and washed with brine. The organic phase was dried over Na2SO4 and evaporated to dryness in vaco. Flash chromatography (SiO2, EtOAc/hexane=1:1) afforded the title compound as a white solid. Preparation of (R)-2-(1-(4-chlorophenylsulfonyl)-3-oxopiperazin-2-yl)-N-(6-(piperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide.

reactant | (R)-2-(1-(4-chlorophenylsulfonyl)-3-oxopiperazin-2-yl)-N-(6-formyl-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | ClC1=CC=C(C=C1)S(=O)(=O)N1C(C(NCC1)=O)CC(=O)N[C@H]1CC2=CC=C(C=C2CC1)C=O | C23H24ClN3O5S
reactant | t-butanol THF water | C(C)(C)(C)O.C1CCOC1.O
reactant | NMO | 1.15 mmol, 135 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | phosphate | 4 mL, pH 7.2 | P(=O)([O-])([O-])[O-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | OsO4 | 0.017 mmol, 175 mg | O=[Os](=O)(=O)=O
product | (R)-2-(1-(4-chlorophenylsulfonyl)-3-oxopiperazin-2-yl)-N-(6-vinyl-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | ClC1=CC=C(C=C1)S(=O)(=O)N1C(C(NCC1)=O)CC(=O)N[C@H]1CC2=CC=C(C=C2CC1)C=C | C24H26ClN3O4S
